US04732895
1-[5-Methyl-2-(3-methyl-4-pyridinyl)-1H-imidazol-4-yl]ethanone
A mixture of 7.1 g of 3-methyl-4-pyridylmethylamine, 6.25 g of 2,3,4-pentanetrione, 3-oxime and 125 ml of acetonitrile was stirred at reflux temperature for 5 hours, then cooled at -10° C. The resulting precipitate was collected, washed with cold acetonitrile, dried and then recrystallized from a mixture of chloroform and hexane, giving 4.5 g of the desired compound, mp 185°-187° C.

reactant | 3-methyl-4-pyridylmethylamine | 7.1 g | CC=1C=NC=CC1CN | C7H10N2
reactant | 2,3,4-pentanetrione | 6.25 g | CC(C(C(C)=O)=O)=O | C5H6O3
reactant | acetonitrile | 125 ml | C(C)#N | C2H3N
product | 1-[5-Methyl-2-(3-methyl-4-pyridinyl)-1H-imidazol-4-yl]ethanone | 4.5 g | CC1=C(N=C(N1)C1=C(C=NC=C1)C)C(C)=O | C12H13N3O
